US04963568
Step 4: 4-(2',3'-Dimethoxyphenyl)-3-phenylbutyric acid
Ethyl 4-(2',3'-dimethoxyphenyl)-3-phenylbutyrate (40.3 g, 123 mmol), from Step 3, was dissolved in 400 mL of methanol and 62 mL of 3 M aqueous sodium hydroxide solution was added in one portion. The reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was concentrated and the residue was partitioned between 300 mL of diethyl ether and 200 mL of water. The layers were separated and the aqueous layer was adjusted to pH 6 with 6 M aqueous hydrochloric acid solution and extracted with 3×200 mL of diethyl ether. The organic layers were combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 37 g (100% yield) of the title compound as a colorless oil. The 1H NMR spectrum was identical to the spectrum reported for the product of Step 5 of Method A, Example 1.

reactant | Ethyl 4-(2',3'-dimethoxyphenyl)-3-phenylbutyrate | 123 mmol, 40.3 g | COC1=C(C=CC=C1OC)CC(CC(=O)OCC)C1=CC=CC=C1 | C20H24O4
reactant | sodium hydroxide | 3 M, 62 mL | [OH-].[Na+]
solvent | methanol | 400 mL | CO | CH4O
product | 4-(2',3'-Dimethoxyphenyl)-3-phenylbutyric acid | 37 g, 100% yield | COC1=C(C=CC=C1OC)CC(CC(=O)O)C1=CC=CC=C1 | C18H20O4
